US07902197B2
A solution of 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.051 g, 0.123 mmol) and methylcyclopentylamine (0.050 mL, 0.44 mmol) in 1 mL of N-methyl pyrrolidinone in a sealed tube was stirred at 200° C. for 20 h. Additional methylcyclopentylamine (0.100 mL, 0.88 mmol) was added, and the solution stirred at 200° C. for 3 d. After cooling, the dark orange solution was partitioned between 10 mL of ethyl acetate and 10 mL of a 10% citric acid solution. The organic layer was sequentially washed with three 10 mL portions of water and 10 mL of a sat. aq. NaCl solution, dried over MgSO4, filtered and concentrated to an orange oil. Column chromatography (0-20% EtOAc/hexanes) afforded 0.030 g (58%) of impure 1-[2-(cyclopentyl-methyl-amino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one, which was used without further purification.

reactant | 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.123 mmol, 0.051 g | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | methylcyclopentylamine | 0.44 mmol, 0.050 mL | CNC1CCCC1 | C6H13N
reactant | methylcyclopentylamine | 0.88 mmol, 0.100 mL | CNC1CCCC1 | C6H13N
solvent | N-methyl pyrrolidinone | 1 mL | CN1CCCC1=O | C5H9NO
product | 1-[2-(cyclopentyl-methyl-amino)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.030 g, 58% | C1(CCCC1)N(C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C)C | C23H38N4O2Si
